data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_281243_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:9])[H:10])=[C:6]([H:15])[H:16])([C:5](=[C:7]([H:17])[H:18])[H:11])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:5](=[C:7]([H:17])[H:18])[H:11])=[C:6]([H:15])[H:16])([N:4]([H:9])[H:10])[H:8],59.16822999999738
MR_312260_1,[C:1]([C:3]([C:2]([N:5]([H:12])[H:13])([H:14])[H:15])=[O:7])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([C:3]([C:2]([N:5]([H:12])[H:13])([H:14])[H:15])([O:7][H:8])[H:9])([N:4]([H:10])[H:11])=[O:6],38.66090250001733
MR_460109_0,[C:1]([C:3]([C:2](/[C:4](=[N:5]\[H:8])[H:9])=[O:6])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:4]1([H:9])[C:2](=[O:6])[N:5]1[H:8])=[O:7])([H:10])([H:11])[H:12],61.64057999999741
MR_191571_1,[C:1]([C:4]([C:2]([H:13])([H:14])[H:18])=[N:8][N:7]=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([C:2]([H:13])([H:14])[H:18])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[N:7]=[N:8]1)([H:15])([H:16])[H:17],64.61618500001094
MR_507524_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:7][H:9])(/[C:6](=[N:8]\[H:10])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])(/[C:6](=[N:8]\[H:10])[H:13])[O:7][H:9])([H:11])[H:12],67.08351499995231
MR_209906_1,[C:1]([C:5]([C:6]([C:2]([H:15])([H:16])[H:17])/[C:7]([C:3]([H:18])([H:19])[H:20])=[C:8](/[C:4]([H:21])([H:22])[H:23])[H:11])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C@@:5]1([O:9][H:10])[C:6]([C:2]([H:15])([H:16])[H:17])=[C:7]([C:3]([H:18])([H:19])[H:20])[C@@:8]1([C:4]([H:21])([H:22])[H:23])[H:11])([H:12])([H:13])[H:14],39.84374000002717
MR_667571_0,[C:1]([C:3]1=[C:4]([C:2]([H:15])([H:16])[H:17])[C:6]([N:5]([H:9])[H:10])([H:11])[N:7]1[H:8])([H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](\[N:5]([H:9])[H:10])[H:11])=[N:7]\[H:8])([H:12])([H:13])[H:14],24.97763750000076
MR_476165_2,[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])([N:3]([H:8])[H:9])[O:5][H:7]>>[N:1]1([O:5][H:7])[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:6]1[H:12],33.9082174999605
MR_437602_1,[C:1]([N:4]([H:10])[H:11])([O:8][C:2](=[C:3]([N:6]([H:15])[H:16])[N:7]([H:14])[H:17])[N:5]([H:12])[H:13])=[O:9]>>[C:1]([C:3]([C:2]([N:5]([H:12])[H:13])=[O:8])([N:6]([H:15])[H:16])[N:7]([H:14])[H:17])([N:4]([H:10])[H:11])=[O:9],52.839892499995074
MR_140484_0,[C:1](=[C:2]([N:5]([H:12])[H:13])/[C:6](=[N:7]/[H:14])[H:15])([N:3]([H:9])[H:10])[N:4]([H:8])[H:11]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[N:5]([H:12])[H:13])([N:4]([H:8])[H:11])/[C:6](=[N:7]/[H:14])[H:15],66.49491999997593
MR_94446_2,[C:1]1([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[C:2]([H:12])([H:13])[C:3]([C:6]([H:22])([H:23])[H:24])([H:14])[C:7]1([N:8]([H:10])[H:11])[O:9][H:15]>>[C:1]([C:2]([C:3]([C:6]([H:22])([H:23])[H:24])([H:14])[H:15])([H:12])[H:13])([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[C:7]([N:8]([H:10])[H:11])=[O:9],55.34361749998723
MR_473276_1,[C@:1]([N:5]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])(/[C:6]([N:8]([H:13])[H:14])=[C:9](\[C:4]([H:22])([H:23])[H:24])[H:15])([N:7]([H:11])[H:12])[H:10]>>[C:1](=[C:6](\[N:8]([H:13])[H:14])[C@:9]([C:4]([H:22])([H:23])[H:24])([N:5]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])[H:15])(\[N:7]([H:11])[H:12])[H:10],60.489744999978114
MR_535286_0,[C:1]([C:2](/[C:3]([N:5]([H:13])[H:14])=[N:8]/[H:16])=[N:7]\[H:15])([N:4]([H:11])[H:12])([O:6][H:9])[H:10]>>[C:1]1([N:4]([H:11])[H:12])([H:10])[C:2](/[C:3]([N:5]([H:13])[H:14])=[N:8]/[H:16])([O:6][H:9])[N:7]1[H:15],48.121720000029455
MR_4094_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:8]/[H:10])([C:5](=[C:6]([H:18])[H:19])[H:11])[O:7][H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C:6](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:8]/[H:10])([H:18])[H:19])[H:11])[O:7][H:9],45.564657499993615
MR_509128_1,[C:1]([O:5][N:2](/[C:3]([N:4]([H:8])[H:9])=[N:6]\[H:10])[H:7])([H:11])([H:12])[H:13]>>[C:1]([O:5][C:3]1([N:4]([H:8])[H:9])[N:2]([H:7])[N:6]1[H:10])([H:11])([H:12])[H:13],70.71799500001447
MR_168984_2,[C:1](\[C:2]1([H:9])[C:3]([C:4]([H:14])([H:15])[H:16])([H:10])[C:6]1([O:7][H:11])[H:13])(=[N:5]/[H:12])[H:8]>>[C:1]1([N:5]([H:11])[H:12])([H:8])[C:2]([C:6](=[O:7])[H:13])([H:9])[C:3]1([C:4]([H:14])([H:15])[H:16])[H:10],34.03309000000192
MR_641985_2,[N:1]([N:2]([H:9])[H:10])(/[C:3](=[N:6]/[O:5][H:8])[H:11])[O:4][H:7]>>[N:1](=[N:2]/[H:9])\[C:3]([O:4][H:7])([N:6]([O:5][H:8])[H:10])[H:11],33.90696249999934
MR_494205_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([O:6][N:4]([C:5]([O:7][H:9])=[O:8])[H:10])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([N:4]([O:6][C:5]([O:7][H:9])=[O:8])[H:10])[H:11],66.08328000001649
MR_228813_1,[C:1]([C:4]([N:3]([N:5]([H:9])[H:10])[N:8][C:6]([C:2]([H:17])([H:18])[H:19])[H:11])=[C:7]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C@@:6]([C:2]([H:17])([H:18])[H:19])([N:8][N:3][N:5]([H:9])[H:10])[H:11])=[C:7]([H:15])[H:16])([H:12])([H:13])[H:14],67.52966750000297
